US05541324
3,3-Dimethyl-4-[(1-methyl)ethyl]oxycarbonyl-1,2,3,4-tetrahydroquinoxalin-2-one (IV)
To 2.28 g of 4-chlorocarbonyl-3,3-dimethyl-1,2,3,4-tetrahydroquinoxalin-2-one (prepared by the method of Example 32 but using 3,3-dimethyl-1,2,3,4-tetrahydroquinoxalin-2-one rather than 6-fluoro-3,3-dimethyl-1,2,3,4-tetrahydroquinoxalin-2-one) in 25 ml of 2-propanol (the starting material is not all in solution) are added 0.694 g of lithium isopropoxide. After about 1.5 hr the reaction mixture became homogeneous and then again heterogeneous as the product precipitated out. After a total of 2 hr the solvent is removed under reduced pressure and the residue is partitioned between dichloromethane aid saline. The organic layers are dried over sodium sulfate and the filtrate is concentrated. Ether is added and the resulting solid is collected to give the title compound. NMR (CDCl3) 1.28, 1.63, 5.01, 6.80, 6.98-7.11, 7.27, 7.96 δ.

reactant | 4-chlorocarbonyl-3,3-dimethyl-1,2,3,4-tetrahydroquinoxalin-2-one | 2.28 g | ClC(=O)N1C(C(NC2=CC=CC=C12)=O)(C)C | C11H11ClN2O2
reactant | 3,3-dimethyl-1,2,3,4-tetrahydroquinoxalin-2-one | CC1(C(NC2=CC=CC=C2N1)=O)C | C10H12N2O
reactant | 6-fluoro-3,3-dimethyl-1,2,3,4-tetrahydroquinoxalin-2-one | FC=1C=C2NC(C(NC2=CC1)=O)(C)C | C10H11FN2O
reactant | lithium isopropoxide | 0.694 g | CC([O-])C.[Li+]
solvent | 2-propanol | 25 ml | CC(C)O | C3H8O
product | 3,3-Dimethyl-4-[(1-methyl)ethyl]oxycarbonyl-1,2,3,4-tetrahydroquinoxalin-2-one | CC1(C(NC2=CC=CC=C2N1C(=O)OC(C)C)=O)C | C14H18N2O3
